Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam / moxifloxacin / 
Bactrim
 
Attending: ___.
 
Chief Complaint:
admitted due to palpitations, R arm tear
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ w/ JAK2-positive myeloproliferative disorder,
AML s/p allo HSCT (___), complicated by GVHD, including
pulmonary GVHD, thoracic aortic aneurysm, MI status post CABG,
afib, CHF, asthma, who is presenting with palpitations. This
morning she woke up in her usual state of health and checked her
SBP which was low in the ___ and HR 140s. She felt tired and
palpitations but no other localizing symptoms. No CP/cough.
States her dyspnea from last month which required admission and
treatment for GVHD of the lungs has significantly improved on
prednisone, now on 12.5 mg daily. Otherwise no ___, no angina, 
no
URI sx. 

Found in ED to have a HR of 140s SBP 90/71 and in Afib w/ RVR.
Received 5 mg IV metop with drop of SBP to the ___. Improved 
with
2L NS to the 110s and checked in alternate arm. Denied having 
any
lightheadedness, presyncope or dizziness. 
 
Past Medical History:
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities  
- repeat bone marrow biopsy showed acute erythroleukemia  
- admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts  
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD  
- post-transplant course complicated by STEMI ___ with DES to 
RCA ___ and CABG (___-LAD) ___  
- complicated by GVHD of the skin and lungs

OTHER MEDICAL HISTORY:  
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (___-LAD) 
___  
- Afib on Xarelto
- Diverticulitis, hx of perforated diverticulum ___ course 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___  
- CHF with EF 40-45%  
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus  
- Diverticulosis  
- Occasional bronchospasm  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE  
- History of Shingles  
- History of Asthma  
- basal cell carcinoma-s/p electrodessication and curettage on  
___  
- tonsillectomy at the age of ___;  
- D&C for question of some polyps back in ___  
- Hospitalization for pneumonia ___ - ___  
- ADRENAL INSUFFICIENCY   
 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================== 
VS: 97.5 PO 106 / 65 R Sitting ___ RA
GENERAL: NAE, breathing comfortably 
HEENT: oropharynx clear without erythema or exudates
NECK: no cervical lymphadenopathy  
LUNGS: CTAB
HEART: irregular rate and rythm
ABD: +BS, soft, NT/ND
EXT: no cyanosis, clubbing, or edema, R UE wrapped 
SKIN: warm, well-perfused, 2+ radial pulses
NEURO: Moving all four extremities with purpose
ACCESS: PIV

DISHARGE PHYSICAL EXAM:
========================
___ ___ Temp: 97.8 PO BP: 117/73 HR: 63 RR: 18 O2 sat: 97%
O2 delivery: RA FSBG: 225 
GEN: NAE, breathing comfortably 
HEENT: Oropharynx clear without erythema or exudates
NECK: No cervical lymphadenopathy  
LUNGS: CTAB, no increased WOB
HEART: RRR, soft systolic murmur at the LSB, no rubs or gallops
ABD: +BS, soft, NT/ND
EXT: No cyanosis, clubbing, or edema, R UE wrapped 
SKIN: UE: R arm with 5 cm skin tear, large surround area of 
ecchymosis and erythema improving. Erythematous area outlined 
and receding 
___: WWP, 2+ radial pulses
NEURO: Moving all four extremities with purpose
 
Pertinent Results:
ADMISSION LABS:
================
___ 08:30PM BLOOD WBC-10.0 RBC-4.64 Hgb-13.3 Hct-41.4 
MCV-89 MCH-28.7 MCHC-32.1 RDW-18.2* RDWSD-56.9* Plt ___
___ 08:30PM BLOOD Neuts-80.2* Lymphs-12.9* Monos-5.3 
Eos-0.1* Baso-0.4 NRBC-1.2* Im ___ AbsNeut-8.04* 
AbsLymp-1.29 AbsMono-0.53 AbsEos-0.01* AbsBaso-0.04
___ 08:30PM BLOOD Glucose-357* UreaN-18 Creat-1.4* Na-127* 
K-8.6* Cl-101 HCO3-17* AnGap-9*
___ 10:50PM BLOOD ALT-18 AST-15 LD(LDH)-280* AlkPhos-66 
TotBili-0.3
___ 08:30PM BLOOD Calcium-9.3 Phos-3.5 Mg-1.7

DISCHARGE LABS:
===============
___ 08:00AM BLOOD WBC-9.3 RBC-4.36 Hgb-12.2 Hct-39.3 MCV-90 
MCH-28.0 MCHC-31.0* RDW-18.1* RDWSD-57.9* Plt ___
___ 08:00AM BLOOD Neuts-50.6 ___ Monos-11.6 Eos-1.5 
Baso-0.4 NRBC-0.8* Im ___ AbsNeut-4.72 AbsLymp-3.26 
AbsMono-1.08* AbsEos-0.14 AbsBaso-0.04
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-132* UreaN-13 Creat-1.1 Na-142 
K-5.3* Cl-101 HCO3-24 AnGap-17
___ 08:00AM BLOOD ALT-24 AST-14 LD(LDH)-309* AlkPhos-60 
TotBili-0.6
___ 08:00AM BLOOD Albumin-3.9 Calcium-10.1 Phos-4.0 Mg-2.0
___ 08:18AM BLOOD Hapto-134
___ 10:50PM BLOOD Triglyc-377*
___ 10:25AM BLOOD TSH-4.7*
___ 10:50PM BLOOD TSH-1.6
___ 08:18AM BLOOD Free T4-1.1
___ 08:15AM BLOOD Cortsol-0.3*

IMAGING:
========

ECHO ___

The left atrial volume index is normal. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is moderately 
depressed (LVEF = 35%) secondary to akinesis of the inferior 
free wall and hypokinesis of the inferior septum and posterior 
wall. The right ventricular free wall thickness is normal. Right 
ventricular chamber size is normal with mild global free wall 
hypokinesis. The diameters of aorta at the sinus, ascending and 
arch levels are normal. There is a mild coarctation of the 
distal aortic arch. The number of aortic valve leaflets cannot 
be determined. The aortic valve leaflets are mildly thickened 
(?#). There is no aortic valve stenosis. Trace aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. Moderate (2+) mitral regurgitation is seen. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
the findings are similar; incidental note is made of a mild 
coarctation of the aorta.  

CXR ___
  
IMPRESSION:  
  
No new consolidation. No significant interval change since the 
prior chest radiograph. 
  
CXR ___

IMPRESSION:  
  
Retrocardiac atelectasis, but no focal consolidations to suggest 
pneumonia. 
 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ w/ JAK2-positive myeloproliferative 
disorder, AML s/p allogeneic HSCT (___), complicated by GVHD, 
including pulmonary GVHD, thoracic aortic aneurysm, MI status 
post CABG, afib, CHF, asthma, who presented with palpitations, 
found to have afib w/ rvr. 

ACUTE ISSUES:
=============
#Hypotension:
#Adrenal insufficiency: Resolved, noted for systolic in the mid 
___ on ___. Asymptomatic at the time. Her right arm 
cellulitis is improving. No evidence of bacteremia or evidence 
of acute bleeding. She is afebrile. She had negative growth in 
her urine and blood cultures. EKG C/w now with NSR since 
___. This hypotension may have been a combination of adrenal 
insufficiency (given low cortisol level, 0.3) and/or metoprolol 
side effect. She received x1 NS bolus with improvement. She has 
been normotensive for > 48 hours. Given concern for adrenal 
insufficiency, her prednisone dose was increased to 20mg daily 
on ___ (from 12.5mg daily). 

#Cellulitis: Improving. Exam of R arm concerning for cellulitis, 
at the site of the injury. There is no palpable fluid 
collection. Given patient's history of several antimicrobial 
allergies, she started on clindamycin for strep and staph 
coverage. As she has had C. diff in past (and tolerated PO 
vancomycin, but not metronidazole), she was also started for C. 
diff prophylaxis as she is on steroids as well [will continue 
until 1 week after clindamycin completion, ___. She 
was transitioned to PO clindamycin on ___ with plan for a 
2WK course [___]. She was initiated on close wound 
monitoring and daily dressing changes outpatient with her ___ to 
start on ___.

#Afib w/ RVR: Has known afib. Unclear precipitant of her RVR but 
infection from skin tear seems most likely (see above). Will 
need to ensure not cardiac related given hx of CAD or related to 
her thyroid disease. 
-Continues on 50mg XL daily of metoprolol discharge
-Restarted home rivaroxaban on ___ (20mg daily)
-TSH slightly elevated, free T4 wnl
-Repeat TTE stable 

CHRONIC/STABLE/RESOLVED ISSUES:
================================

#CAD: No troponin elevation. No concerning EKG changes
-continue aspirin
-continue statin
-cardiac enzymes wnl

#Systolic CHF: ECHO on ___ showed LVEF 35%. Euvolemic on
exam. Repeat TTE on ___ stable.

#AML s/p allogeneic stem cell transplant
-continue azithromycin ___
-continue hydroxyurea ___
-continue acyclovir
-was on a prednisone taper for pulmonary GVHD but is now 
increased to 20mg daily due to adrenal insufficiency/hypotension 
as above

#Hypomagnesaemia: resolved, continue to monitor outpatient 

#T2DM: Mild exacerbation given higher dose of prednisone. 
Restarted home dose of metformin at discharge

CORE MEASURES: 
==============
#ACCESS: NONE
#HCP/CONTACT: ___ (husband) ___ 
#CODE STATUS: Full 
#DISPO: Discharged ___. RTC ___. Daily wound dressing 
changes starting from ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Azithromycin 250 mg PO MWF 
5. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
6. Hydroxyurea 500 mg PO 3X/WEEK (___) 
7. LORazepam 0.5 mg PO Q4H:PRN nausea, anxiety, insomnia 
8. Montelukast 10 mg PO DAILY 
9. PredniSONE 12.5 mg PO DAILY 
Tapered dose - DOWN 
10. Rivaroxaban 20 mg PO DINNER 
11. umeclidinium 62.5 mcg/actuation inhalation DAILY 
12. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
13. Calcium Carbonate 1500 mg PO DAILY 
14. Cyanocobalamin 500 mcg PO DAILY 
15. esomeprazole magnesium 20 mg oral BID 
16. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
17. Levothyroxine Sodium 25 mcg PO DAILY 
18. MetFORMIN (Glucophage) 500 mg PO BID 
19. Vitamin D ___ UNIT PO DAILY 
20. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Clindamycin 300 mg PO Q6H 
TAKE AS DIRECTED UNTIL ___  
2.  Vancomycin Oral Liquid ___ mg PO BID 
TAKE TWICE A DAY UNTIL ___  
3.  Calcium Carbonate 1500 mg PO DAILY:PRN heartburn  
4.  PredniSONE 20 mg PO DAILY Duration: 5 Days 
CONTINUE THIS HIGHER DOSE UNTIL YOUR APPOINTMENT WITH ___. ___ 
ON ___ 
Tapered dose - UP  
5.  Acyclovir 400 mg PO Q12H  
6.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 80 mg PO QPM  
9.  Azithromycin 250 mg PO MWF  
10.  Cyanocobalamin 500 mcg PO DAILY  
11.  esomeprazole magnesium 20 mg oral BID  
12.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies  

13.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
14.  Hydroxyurea 500 mg PO 3X/WEEK (___)  
15.  Levothyroxine Sodium 25 mcg PO DAILY  
16.  LORazepam 0.5 mg PO Q4H:PRN nausea, anxiety, insomnia  
17.  MetFORMIN (Glucophage) 500 mg PO BID  
18.  Metoprolol Succinate XL 50 mg PO DAILY  
19.  Montelukast 10 mg PO DAILY  
20.  Rivaroxaban 20 mg PO DINNER  
21.  umeclidinium 62.5 mcg/actuation inhalation DAILY  
22.  Vitamin D ___ UNIT PO DAILY  
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
RIGHT ARM CELLULITIS
ATRIAL FIBRILLAION WITH RVR

SECONDARY DIAGNOSIS:
====================
MPD
AML status post allogeneic stem cell transplant (___)
CAD
SYSTOLIC CHF
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted due to a fast irregular heart beat (atrial 
fibrillation) and Right arm infection (cellulitis). After 
thorough workup and treatment for this irregular heart beat and 
intravenous antibiotics, your fast irregular heart beat went 
back to normal and your infection continues to improve. You will 
follow up in the clinic as stated below. It was a pleasure 
taking care of you.
 
Followup Instructions:
___